US08669234B2
2-[2-({[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-methyl}-tert-butoxycarbonyl-amino)-acetylamino]-3-methyl-butyric acid was prepared using method 801 substituting 2-[2-({[2-(4-bromo-phenyl)-2-oxo-ethyl carbamoyl]-methyl}-tert-butoxycarbonyl-amino)-acetylamino]-3-methyl-butyric acid methyl ester for 4-oxo-hexahydro-pyrrolo[1,2-a]pyrazine-2,6-dicarboxylic acid 6-ethyl ester 2-methyl ester. C22H30BrN3O7 calculated 527.1 observed [M+1]+528.1; rt=2.39 min.

reactant | 2-[2-({[2-(4-bromo-phenyl)-2-oxo-ethyl carbamoyl]-methyl}-tert-butoxycarbonyl-amino)-acetylamino]-3-methyl-butyric acid methyl ester | COC(C(C(C)C)NC(CN(C(=O)OC(C)(C)C)CC(NCC(=O)C1=CC=C(C=C1)Br)=O)=O)=O | C23H32BrN3O7
reactant | 4-oxo-hexahydro-pyrrolo[1,2-a]pyrazine-2,6-dicarboxylic acid 6-ethyl ester 2-methyl ester | COC(=O)N1CC2N(C(C1)=O)C(CC2)C(=O)OCC | C12H18N2O5
product | 2-[2-({[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-methyl}-tert-butoxycarbonyl-amino)-acetylamino]-3-methyl-butyric acid | BrC1=CC=C(C=C1)C(CNC(=O)CN(CC(=O)NC(C(=O)O)C(C)C)C(=O)OC(C)(C)C)=O | C22H30BrN3O7
